### PR TITLE
Lspace master

### LINKED ISSUE #1360: Missing essential supremum for extended reals
This code could be generalized to extended reals without much issues, it seems that not much depends on these definitions
https://github.com/math-comp/analysis/blob/6dfceaafefdeace2147a1ad9a307223641dccdb1/theories/measure.v#L5250C1-L5266C24

@jmmarulang

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

This is the same contents as the PR on Lp spaces except that it does not require MathComp master. 

closes #1361

fixes #1360 

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/lspace.v [hunk 1]
```diff
@@ -0,0 +1,465 @@
...
+by apply; rewrite ?(lt_le_trans _ p1).
+Qed.
+
+End Lspace_norm.
+
+Section Lspace_inclusion.
+Context d (T : measurableType d) (R : realType).
+Variable mu : {measure set T -> \bar R}.
+
+(* the following lemma is not needed, but looks useful, should we include it anyways? *)
```
Comment (affeldt-aist) [inline theories/lspace.v:373]: If not used, I think it is better to put it in another PR or in an issue to simplify the review process of this PR (certainly there are variants of this lemma and we may want to deal with the business of proving and naming them later).

File: theories/hoelder.v [hunk 2]
```diff
@@ -498,8 +537,34 @@ under [X in X * _]eq_integral=> x _ do rewrite mulr_powRB1 ?subr_gt0//.
 rewrite poweRD; last by rewrite poweRD_defE gt_eqF ?implyFb// subr_gt0 invf_lt1.
 rewrite poweRe1; last by apply: integral_ge0 => x _; rewrite lee_fin powR_ge0.
 congr (_ * _); rewrite poweRN.
-- by rewrite unlock gt_eqF// fine_poweR.
+- by rewrite unlock fine_poweR.
 - by rewrite -powR_Lnorm ?gt_eqF// fin_num_poweR// ge0_fin_numE ?Lnorm_ge0.
 Qed.
 
+Lemma minkowski' f g p :
```
Comment (affeldt-aist) [inline theories/hoelder.v:544]: Can we think of a more informative name than `minkowski'`?
Since the next one is `minkoweskie`, maybe `minkowskir`?

File: theories/hoelder.v [hunk 3]
```diff
@@ -498,8 +537,34 @@ under [X in X * _]eq_integral=> x _ do rewrite mulr_powRB1 ?subr_gt0//.
...
+rewrite [X in _ <= 'N__[X] + _](_ : ((f \+ g \- g) \+ g)%R = (f \+ g)%R); last first.
+  by apply: funext => x /=; rewrite -addrA [X in _ + _ + X]addrC subrr addr0.
+rewrite (_ : 'N__[g] = 'N_p%:E[-%R \o g]); last first.
+  by rewrite oppr_Lnorm.
+apply: minkowski => //.
+  apply: measurable_funD => //.
+apply: measurableT_comp => //.
+Qed.
+
+Lemma minkowskie (f g : T -> R) (p : \bar R) :
```
Comment (affeldt-aist) [inline theories/hoelder.v:560]: Maybe more simply `minkowski` since this is the most general version in the file. (And `minkowski` can be renamed `minkowski_EFin` to insist on the fact that it is a specialized version.)

File: theories/lspace.v [hunk 4]
```diff
@@ -0,0 +1,449 @@
...
+From mathcomp Require Import all_ssreflect.
+From mathcomp Require Import ssralg ssrnum ssrint interval finmap.
+From mathcomp Require Import boolp classical_sets interval_inference reals.
+From mathcomp Require Import functions cardinality topology normedtype ereal.
+From mathcomp Require Import sequences esum exp measure numfun lebesgue_measure.
+From mathcomp Require Import lebesgue_integral hoelder ess_sup_inf.
+
+(******************************************************************************)
+(*                                                                            *)
+(*         LfunType mu p == type of measurable functions f such that the      *)
```
Comment (affeldt-aist) [inline theories/lspace.v:12]: The documentation of `lspace.v` looks a bit short compared to the contents.

File: theories/lspace.v [hunk 5]
```diff
@@ -0,0 +1,449 @@
+(* mathcomp analysis (c) 2022 Inria and AIST. License: CeCILL-C.              *)
+From HB Require Import structures.
+From mathcomp Require Import all_ssreflect.
+From mathcomp Require Import ssralg ssrnum ssrint interval finmap.
+From mathcomp Require Import boolp classical_sets interval_inference reals.
+From mathcomp Require Import functions cardinality topology normedtype ereal.
+From mathcomp Require Import sequences esum exp measure numfun lebesgue_measure.
+From mathcomp Require Import lebesgue_integral hoelder ess_sup_inf.
+
+(******************************************************************************)
```
Comment (affeldt-aist) [inline theories/lspace.v:10]:
```suggestion
(**md**************************************************************************)
```

File: theories/lspace.v [hunk 6]
```diff
@@ -0,0 +1,449 @@
...
+
+Section Lspace_norm.
+Context d (T : measurableType d) (R : realType).
+Variable mu : {measure set T -> \bar R}.
+Variable (p : \bar R) (p1 : (1 <= p)%E).
+
+(* 0 - + should come with proofs that they are in LfunType mu p *)
+
+Notation ty := (LfunType mu p1).
+Definition nm f := fine ('N[mu]_p[EFin \o f]).
```
Comment (affeldt-aist) [inline theories/lspace.v:314]: `nm` looks like a very short identifier to be exported. Maybe it was intended to be a a local definition.

File: theories/lspace.v [hunk 7]
```diff
@@ -0,0 +1,449 @@
...
+Proof.
+rewrite /nm fineK// fin_numElt (lt_le_trans ltNy0) ?Lnorm_ge0//=.
+exact: lfuny.
+Qed.
+
+Lemma ler_Lnorm_add (f g : ty) :
+  nm (f + g) <= nm f + nm g.
+Proof. by rewrite -lee_fin EFinD !finite_norm_fine minkowskie. Qed.
+
+Lemma natmulfctE (U : pointedType) (K : ringType) (f : U -> K) n :
```
Comment (affeldt-aist) [inline theories/lspace.v:326]: That maybe should be moved or at least marked as as TODO: move

File: theories/measurable_realfun.v [hunk 8]
```diff
@@ -1587,56 +1631,113 @@ apply/eqP; rewrite eq_le; apply/andP; split.
...
 
 End open_itv_cover.
 
+
+Section ereal_supZ.
+Context {R : realType}.
+Implicit Types (r s : R) (A : set R) (X : set (\bar R)).
+Local Open Scope ereal_scope.
+
+Lemma set_cst I T (x : T) (A : set I) :
```
Comment (affeldt-aist) [inline theories/measurable_realfun.v:1686]: Looks like this can be moved to `classical_sets.v`.

**Comment by affeldt-aist** [comment]
I tried to write an exhaustive changelog. I also left a few easy comments that I might address later.

File: theories/lspace.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/lspace.v:364]: Recorded as issue #1526

File: theories/lspace.v (hunk 6 above)
Comment (affeldt-aist) [reply theories/lspace.v:314]: Changed to `Let`.

File: theories/lspace.v (hunk 7 above)
Comment (affeldt-aist) [reply theories/lspace.v:326]: moved

File: theories/measurable_realfun.v (hunk 8 above)
Comment (affeldt-aist) [reply theories/measurable_realfun.v:1686]: moved

File: theories/lspace.v (hunk 4 above)
Comment (affeldt-aist) [reply theories/lspace.v:12]: Documentation added.

File: theories/hoelder.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/hoelder.v:560]: applied

File: theories/hoelder.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/hoelder.v:544]: used `lerB_DLnorm` and proved `lerB_LnormD` (on the model of `lerB_normD`)

**Comment by affeldt-aist** [comment]
> I tried to write an exhaustive changelog. I also left a few easy comments that I might address later.

I tried to address my own comments but I feel that there is still room for improvement because I am not sure about how the properties of Lp-norms are split between `hoelder.v` and `lspace.v`.

File: CHANGELOG_UNRELEASED.md [hunk 9]
```diff
@@ -33,6 +33,96 @@
...
+- in `measurable_realfun.v`:
+  + lemmas `ereal_inf_seq`, `ereal_sup_seq`, `set_cst`,
+    `ereal_sup_cst`, `ereal_inf_cst`, `ereal_sup_pZl`,
+    `ereal_supZl`, `ereal_inf_pZl`, `ereal_infZl`
+
+- in `measure.v`:
+  + lemmas `seqDU_measurable`, `measure_gt0`
+  + notation `\forall x \ae mu , P`
+  + notations `f = g %[ae mu in D ]`, `f = g %[ae mu ]`
+  + module `ProperNotations` with notations `++>`, `==>`, `~~>`
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply CHANGELOG_UNRELEASED.md:75]: Moved to `mathcomp_extra.v` and added an `Export` inside to reduce the clutter.

**Comment by affeldt-aist** [comment]
Oops... reals.v and discrete.v have been modified (Coq -> Corelib) :-(

**Comment by affeldt-aist** [comment]
I have rebased on master (since `lebesgue_integral.v` has been split in between, I thought that it is better to not let the PR diverge).
The changelog (which is not particularly small) seems to have rebased correctly.
There are less commits because commits related to `interval_inference.v` were also merged into master in between by @proux01 (e.g., https://github.com/math-comp/analysis/commit/64b44f4df73918194b785ac9195036d7d70cd505)

**Comment by proux01** [comment]
Are the individual commits expected to make sense? (I would be a bit wary of squashing a +2000-500 lines single commit)

**Comment by affeldt-aist** [comment]
> Are the individual commits expected to make sense? (I would be a bit wary of squashing a +2000-500 lines single commit)

What we could do to make progress is to extract from this PR the less controversial stuff (e.g., `ess_sup_inf`) and make it a different PR to rebase on. That would make for a meaningful commit. What do you think? @hoheinzollern @CohenCyril

**Comment by affeldt-aist** [comment]
> > Are the individual commits expected to make sense? (I would be a bit wary of squashing a +2000-500 lines single commit)
> 
> What we could do to make progress is to extract from this PR the less controversial stuff (e.g., `ess_sup_inf.v`) and make it a different PR to rebase on. That would make for a meaningful commit. What do you think? @hoheinzollern @CohenCyril

Moreover it will be useful for ongoing work that generalizes L-norm to `p < 0`.

**Comment by affeldt-aist** [comment]
> Are the individual commits expected to make sense? (I would be a bit wary of squashing a +2000-500 lines single commit)

I do not think they make much sense.
The plan would rather be to:
1. extract from this PR all the lemmas of general interest that are non-breaking additions (in particular in `classical` and some in `measure.v`) as a separate PR
2. extract the `ess_sup_inf.v` as a separate PR (this is also non-breaking)
3. extract the addition of the `{ae _, _}` notation as a separate PR (this will cause the modification of some lemmas in `lebesgue_integral_theory`, `charge.v`, etc. but this is also uncontroversial)
4. the rest (changes to `hoelder.v`, etc.) would be a last PR where we can address the changes discussed during the last MathComp-Analysis dev meeting

@hoheinzollern

**Comment by affeldt-aist** [comment]
Besides the rebases thanks to which a nummber of orthogonal changes have already made their way to master, lemmas `Lnorm_ge0` and `Lnorm_eq0_eq0` have been generalize to hold for extended real-valued functions (addressing comments made during the last mathcomp-analysis-dev meeting), we continue looking for more generalizations though @CohenCyril

**Comment by affeldt-aist** [comment]
The contents of `measurable_realfun.v` could also be a different PR.

**Comment by affeldt-aist** [comment]
> > Are the individual commits expected to make sense? (I would be a bit wary of squashing a +2000-500 lines single commit)
> 
> I do not think they make much sense. The plan would rather be to:
> 
>     1. extract from this PR all the lemmas of general interest that are non-breaking additions (in particular in `classical` and some in `measure.v`) as a separate PR
> 
>     2. extract the `ess_sup_inf.v` as a separate PR (this is also non-breaking)
> 
>     3. extract the addition of the `{ae _, _}` notation as a separate PR (this will cause the modification of some lemmas in `lebesgue_integral_theory`, `charge.v`, etc. but this is also uncontroversial)
> 
>     4. the rest (changes to `hoelder.v`, etc.) would be a last PR where we can address the changes discussed during the last MathComp-Analysis dev meeting

Merging the following PRs in order should make review easy:
1. PR #1607 (lemmas about `ereal_sup`)
2. PR #1600 (for the equality almost everywhere)
3. PR #1606 (essentially `ess_sup_inf.v`)
and finally lspace_master (this PR) in which only `Lnorm` stuff should remain
(and about which already a few generalization asked for have already been done).
